US09278910B2
Prepared using General Procedure 2: To a stirring solution of N-(4-hydroxybenzyl)-4-nitrobenzamide INT-1 (647 mg, 2.38 mmol) in DCM (10 mL) at 0° C. was added TEA (1.03 mL, 7.13 mmol) followed by 4-(heptyloxy)benzoyl chloride (12.4 mL, 2.85 mmol). The suspension was sonicated until clear then diluted with DCM (50 mL) and washed with NaHCO3 (20 mL). The organic layer was concentrated and purified by chromatography (EA/hexanes) to provide 857 mg (73%) of 4-((4-nitrobenzamido)methyl)phenyl 4-(heptyloxy)benzoate INT-2. LCMS-ESI (m/z) calculated for C28H30N2O6: 490; found 491 [M+H]+, tR=3.41 min (Method 5).

reactant | N-(4-hydroxybenzyl)-4-nitrobenzamide | OC1=CC=C(CNC(C2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C14H12N2O4
reactant | 4-(heptyloxy)benzoyl chloride | 2.85 mmol, 12.4 mL | C(CCCCCC)OC1=CC=C(C(=O)Cl)C=C1 | C14H19ClO2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-((4-nitrobenzamido)methyl)phenyl 4-(heptyloxy)benzoate | 857 mg, 73% | C(CCCCCC)OC1=CC=C(C(=O)OC2=CC=C(C=C2)CNC(C2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C28H30N2O6
